US06683211B1
d) 2-(4-Bromo-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide
5-(4-Bromo-phenyl)-2,2-dimethyl-[1,3]dioxolan-4-one (15 g, 55 mmol) is dissolved in 50 ml of ethanol. 4-(2-Amino-ethyl)-2-methoxy-phenol hydrochloride (14 g, 69 mmol) and triethylamine (7.0 g, 69 mmol) are added and the mixture is stirred for 72 hours at room temperature. The solvent is removed in vacuum and the residue is extracted with ethyl acetate and 1N hydrochloric acid. The aqueous layer is extracted twice with ethyl acetate and the combined organic phases are washed with brine, dried over sodium sulfate and evaporated. The remaining 2-(4-bromo-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide is purified by chromatography on silica gel. 1H-NMR (300 MHz, CDCl3): 2.71 (t, 2H, CH2CH2), 3.54 (t, 2H, CH2CH2), 3.80 (s, 3H, OCH3), 5.59 (s, 1H, CHOH), 6.16 (bs, 1H, NH), 6.52-7.35 (m, 7H, CH arom.).

reactant | 5-(4-Bromo-phenyl)-2,2-dimethyl-[1,3]dioxolan-4-one | 55 mmol, 15 g | BrC1=CC=C(C=C1)C1C(OC(O1)(C)C)=O | C11H11BrO3
reactant | 4-(2-Amino-ethyl)-2-methoxy-phenol hydrochloride | 69 mmol, 14 g | Cl.NCCC1=CC(=C(C=C1)O)OC
reactant | triethylamine | 69 mmol, 7.0 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-(4-Bromo-phenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxy-phenyl)-ethyl]-acetamide | BrC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)O)OC)O | C17H18BrNO4
